US08426437B2
This compound is prepared according to synthesis 79 from 75 mg (0.33 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 75) and 28 μL (0.36 mmol) of 3-hydroxy-propylamine. The aqueous phase is evaporated, the residue is taken up in methanol and then filtered. The filtrate is evaporated and the residue is purified by preparative LCMS to give 8 mg (9%) of N-(3-hydroxy-propyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide in the form of a white solid.

reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.33 mmol, 75 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | 3-hydroxy-propylamine | 0.36 mmol, 28 μL | OCCCN | C3H9NO
product | N-(3-hydroxy-propyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide | 8 mg, 9% | OCCCNC(=O)C1=CNC=2C(NC=3C=CC=CC3C21)=O | C15H15N3O3
